US06231833B1
(7R,9aS)-7-(3,5-Difluorophenoxy)methyl-2-(6-chloropyridazin-3-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine
A mixture of (7R,9aS)-N-BOC-7-hydroxymethyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine (WO 93/25552) and 3,5-difluorophenol were coupled followed by N-BOC deprotection according to Preparation 9. The product from this reaction was coupled with 3,6-dichloropyridazine according to Preparation 3 to give the title compound. mp (—HCl) 254-259° C. 13C NMR (base, CDCl3): δ26.7, 28.9, 36.1, 45.1, 50.4, 54.3, 58.4, 60.3, 71.4, 96.3, 95.0, 98.4, 115.2, 128.8, 146.8, 158.8.

reactant | (7R,9aS)-N-BOC-7-hydroxymethyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | C(=O)(OC(C)(C)C)N1C[C@H]2N(CC1)C[C@@H](CC2)CO | C14H26N2O3
reactant | 3,5-difluorophenol | FC=1C=C(C=C(C1)F)O | C6H4F2O
reactant | 3,6-dichloropyridazine | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
product | (7R,9aS)-7-(3,5-Difluorophenoxy)methyl-2-(6-chloropyridazin-3-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | FC=1C=C(OC[C@@H]2CC[C@@H]3N(CCN(C3)C=3N=NC(=CC3)Cl)C2)C=C(C1)F | C19H21ClF2N4O
